US04772600
3-[2-(1-Azetidinyl)-2-oxoethyl]-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (6.72 g, 0.0234 mole), 1,1'-carbonyldiimidazole (3.78 g, 0.0234 mole) and dry tetrahydrofuran (85 ml) was stirred at room temperature for 2 hours with nitrogen bubbling through and was then stirred at room temperature under nitrogen overnight. A solution of azetidine (2.0 g, 0.0350 mole) in tetrahydrofuran (10 ml) was added. The resulting suspension was stirred at room temperature under nitrogen for 3.5 hours, evaporated to a white solid, triturated with water (75 ml), the solid filtered and rinsed twice with water. The solid was dissolved in hot isopropyl alcohol, filtered, and cooled to room temperature to yield a white solid. The solid was collected by filtration, rinsed once with isopropyl alcohol, twice with isopropyl ether and dried under high vacuum at room temperature to give 5.34 g (70%) of a white solid, mp 195.5°-197° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0234 mole, 6.72 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0234 mole, 3.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | azetidine | 0.0350 mole, 2.0 g | N1CCC1 | C3H7N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | 3-[2-(1-Azetidinyl)-2-oxoethyl]-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine | 5.34 g, 70% | N1(CCC1)C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)=O | C17H15ClN4O
